US05852011
Methyl 4-[N,N-bis(2-chloroethyl)amino]phenoxyacetate
Thionyl chloride (3.17 g; 26.6 mmol) was added dropwise under ice cooling to a solution of 2.39 g (8.87 mmol) of methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenoxyacetate in 72 ml of 1,2-dichloroethane. The thus-obtained mixture was stirred at room temperature for 4 hours and then concentrated. The resulting residue was purified by flush chromatography (chloroform/methanol=200/3), whereby 2.0 g of the title compound were obtained as brown crystals (yield: 74%).

reactant | Thionyl chloride | 26.6 mmol, 3.17 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 4-[N,N-bis(2-hydroxyethyl)amino]phenoxyacetate | 8.87 mmol, 2.39 g | OCCN(CCO)C1=CC=C(OCC(=O)OC)C=C1 | C13H19NO5
reactant | 1,2-dichloroethane | 72 ml | ClCCCl | C2H4Cl2
product | Methyl 4-[N,N-bis(2-chloroethyl)amino]phenoxyacetate | 2.0 g | ClCCN(CCCl)C1=CC=C(OCC(=O)OC)C=C1 | C13H17Cl2NO3
